data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1cc(F)cc(F)c1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(F)cc(F)c1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1cc(F)cc(F)c1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1cc(F)cc(F)c1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1cc(F)cc(F)c1)C2(C)C", "products": "C[C+]1C2(c3cc(F)cc(F)c3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3cc(F)cc(F)c3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2cc(F)cc(F)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2cc(F)cc(F)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2cc(F)cc(F)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2cc(F)cc(F)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2cc(F)cc(F)c2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2cc(F)cc(F)c2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3cc(F)cc(F)c3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3cc(F)cc(F)c3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3cc(F)cc(F)c3)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C3OCC(F)(O3)C(OS(=O)(=O)c3ccc(C)cc3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3OCC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3OCC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OCC2(F)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3OCC2(F)O3)cc1", "products": "O=C1C2C3OCC(F)(O3)C12"}, {"reactants": "O=C1C2C3OCC(F)(O3)C12.[O-]C", "products": "COC1([O-])C2C3OCC(F)(O3)C21"}, {"reactants": "COC1([O-])C2C3OCC(F)(O3)C21.CO", "products": "COC(=O)C1CC2(F)COC1O2"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(C)c1C.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1C"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1C", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1C.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(C)c1C", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(C)c2C)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(C)c2C)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(C)c1C"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(C)c1C", "products": "COc1cc2c(c(C)c1C)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(C)c1C)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(C)c1C)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(C)c1C)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(C)c1C)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(C)c1C)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(C)c1C.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CF)c([Si](C)(C)C)c(Cl)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)C)c(Cl)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CF)c([Si](C)(C)C)c(Cl)c1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(C)CF)c([Si](C)(C)C)c(Cl)c4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccccc1Cl)C1C2CCC1C2", "products": "[O][C](c1ccccc1Cl)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccccc1Cl)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccccc1Cl"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccccc1Cl", "products": "OC(=CC1C=CCC1)c1ccccc1Cl"}, {"reactants": "OC(=CC1C=CCC1)c1ccccc1Cl", "products": "O=C(CC1C=CCC1)c1ccccc1Cl"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)C)c([Si](C)(C)C)c(OCC)c21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(OCC)c1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)C)c([Si](C)(C)C)c(OCC)c1=C", "products": "CCOc1c2c(cc([Si](C)(C)C)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
